US07176310B1
C. 2-Carbamoylmethanesulfonyl-4-methylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide
A solution of 2-carbamoylmethylsulfinyl-4-methylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide (as prepared above, 42 mg, 0.12 mmol) and m-CPBA (47 mg, 0.27 mmol) in 2 mL of 1:1 dichloromethane:DMF was stirred at ambient temperature for 3 days. The solution was diluted with 40 mL of 1:1 ethyl acetate:hexane and sequentially washed with 2×10 mL 5% NaHCO3(aq), 10 mL 0.1 M HCl(aq) and 10 mL brine. The organic layer was dried using Na2SO4 and concentrated to a white solid which was triturated with 10 mL of 1:1 dichloromethane:hexane, yielding 8 mg (19%) of the titled compound as a white solid.

reactant | 2-carbamoylmethylsulfinyl-4-methylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 0.12 mmol, 42 mg | FC1=CC=C(C=C1)NC(=O)C=1C(=NC(=NC1)S(=O)CC(N)=O)C | C14H13FN4O3S
reactant | m-CPBA | 0.27 mmol, 47 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | DMF | CN(C)C=O | C3H7NO
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 2-Carbamoylmethanesulfonyl-4-methylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 8 mg, 19% | FC1=CC=C(C=C1)NC(=O)C=1C(=NC(=NC1)S(=O)(=O)CC(N)=O)C | C14H13FN4O4S
